*Filter Double T-Bridige
.SUBCKT FilterDoubleT_Bridige 3 4 5 params: F=100 C=1E-007
C3 1 4 {2*C}
C2 2 5 {C}
C1 3 2 {C}
R3 2 4 {1/(2*pi*{F}*{C})}/2  
R2 1 5 {1/(2*pi*{F}*{C})}  
R1 3 1 {1/(2*pi*{F}*{C})} 
.ends FilterDoubleT_Bridige
